US06211199B1
55.2 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine
Prepare by the method of Example 2.5.2 using 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (2.6 g, 6.50 mmol) and methanesulfonyl chloride (0.8 mL, 10.4 mmol) to give the title compound: Rf=0.20 (silica gel, ethyl acetate).

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 6.50 mmol, 2.6 g | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C21H23N5O3
reactant | methanesulfonyl chloride | 10.4 mmol, 0.8 mL | CS(=O)(=O)Cl | CH3ClO2S
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
